US08247556B2
1H-Pyrrolo[2,3-b]pyridine-4-carbonitrile (11.2 g, 83.8 mmol) was dissolved into 400 mL EtOAc, 100 mL of Et3N. Pd/C (2.8 g) was added followed by 20 mL of Ac2O. H2 was introduced via balloon and the mixture was stirred at RT under balloon pressure of H2 for 8-12 h. After most of the starting material was consumed, catalyst was removed by filtration through a pad of Celite®. The pad was washed by EtOAc, CH2Cl2, and MeOH. The solvent was evaporated. The residue was taken into CH2Cl2 and the solid was collected by filtration to afford 471 g of N-((1-acetyl-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl)acetamide. The filtrate was concentrated and purified on a column (0-10% MeOH/CH2Cl2+NH4OH) to obtain (N-(2,3-dihydro-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl)-acetamide.

reactant | 1H-Pyrrolo[2,3-b]pyridine-4-carbonitrile | 83.8 mmol, 11.2 g | N1C=CC2=C1N=CC=C2C#N | C8H5N3
reactant | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
reactant | Ac2O | 20 mL | CC(=O)OC(=O)C | C4H6O3
catalyst | Pd/C | 2.8 g | [Pd] | Pd
solvent | Et3N | 100 mL | CCN(CC)CC | C6H15N
product | N-((1-acetyl-1H-pyrrolo[2,3-b]pyridin-4-yl)methyl)acetamide | 471 g | C(C)(=O)N1C=CC=2C1=NC=CC2CNC(C)=O | C12H13N3O2
